US08026234B2
Compound 145: 9-Cyclopentyl-7,7-difluoro-2-(5-fluoro-2-methylphenylamino)-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one (100 mg, 0.32 mmol), 5-fluoro-2-methylaniline (60 mg, 0.48 mmol), i-PrOH (2 mL) and conc. HCl (5 drops) were heated to 100° C. overnight to give the title compound. The final compound was purified by reverse phase HPLC and basified to give the free base (50 mg, 39%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.40-1.96 (m, 9H) 2.22 (s, 3H) 3.99 (t, J=14 Hz, 2H) 4.62 (t, J=8 Hz, 1H) 6.81 (td, J=8, 3 Hz, 1H) 7.19 (t, J=8 Hz, 1H) 7.58 (dd, J=12, 3 Hz, 1H) 8.20 (s, 1H) 8.57 (s, 1H). [M+H] calc'd for C20H22F3N5O, 406. found 406.

reactant | 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one | 0.32 mmol, 100 mg | ClC=1N=CC=2N(C(C(CN(C2N1)C1CCCC1)(F)F)=O)C | C13H15ClF2N4O
reactant | 5-fluoro-2-methylaniline | 0.48 mmol, 60 mg | FC=1C=CC(=C(N)C1)C | C7H8FN
catalyst | HCl | 5 drops | Cl | ClH
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | 9-Cyclopentyl-7,7-difluoro-2-(5-fluoro-2-methylphenylamino)-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=CC(=C2)F)C | C20H22F3N5O
